US06660753B2
To a solution of 4-amino-3-trifluoromethoxybenzoic acid (5 g, 22.6 mmoles) in acetic acid (50 mL), bromine(3.98 g, 24.9 mmoles) in acetic acid(10 mL) was added dropwise at room temperature. After the reaction mixture was kept stirring for one hour, water was added into the mixture. The solid was filtered and washed with water to give 4-amino-3-bromo-5-trifluoromethoxybenzoic acid (3.9 g, 54.9%).

reactant | 4-amino-3-trifluoromethoxybenzoic acid | 22.6 mmoles, 5 g | NC1=C(C=C(C(=O)O)C=C1)OC(F)(F)F | C8H6F3NO3
reactant | bromine | 24.9 mmoles, 3.98 g | BrBr | Br2
reactant | water | O | H2O
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | 4-amino-3-bromo-5-trifluoromethoxybenzoic acid | 3.9 g, 54.9% | NC1=C(C=C(C(=O)O)C=C1OC(F)(F)F)Br | C8H5BrF3NO3
